US05523313
A mixture comprising 535 mg of the product prepared in Example 11, 4-ethoxycarbonyl-5-{2-[N-((1S)-1-carboxy-2-(3-indolyl)ethyl)-(L)-phenylalanyl]aminoethyl}thiazole, 1.5 ml of 2N sodium hydroxide solution and 2 ml of methanol was stirred for 2 hours under ice-cooling. After the solvent was removed by evaporation, 1.5 ml of 2N hydrochloric acid solution was added to the residue. The obtained solid was collected by filtration and washed successively with water and then ether to give 285 mg of 4-carboxy-5-{2-[N-((1S)-1-carboxy-2-(3-indolyl)ethyl)-(L)-phenylalanyl]aminoethyl}thiazole.

reactant | 4-ethoxycarbonyl-5-{2-[N-((1S)-1-carboxy-2-(3-indolyl)ethyl)-(L)-phenylalanyl]aminoethyl}thiazole | C(C)OC(=O)C=1N=CSC1CCNC([C@@H](N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O)CC1=CC=CC=C1)=O | C28H30N4O5S
reactant | sodium hydroxide | 2N, 1.5 ml | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | 4-carboxy-5-{2-[N-((1S)-1-carboxy-2-(3-indolyl)ethyl)-(L)-phenylalanyl]aminoethyl}thiazole | 285 mg | C(=O)(O)C=1N=CSC1CCNC([C@@H](N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O)CC1=CC=CC=C1)=O | C26H26N4O5S
